US04435403
A mixture of 2.3 g of 3-(3-beta-carbolinyl)acrylic-acid, 70 ml of 99% ethanol, and 10 ml of concentrated sulfuric acid is boiled at the reflux for 5 h. After cooling, the reaction mixture is placed in an ice mixture of 100 g of ice and 40 ml of concentrated ammonium hydroxide. The reaction product is filtered off. 2.2 g of ethyl-3-(3-beta-carbolinyl)-acrylate with a m.p. of 132°-134° C. is obtained.

reactant | 3-(3-beta-carbolinyl)acrylic-acid | 2.3 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C=CC(=O)O | C14H10N2O2
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | 40 ml | [OH-].[NH4+]
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | ethyl-3-(3-beta-carbolinyl)-acrylate | 2.2 g | C(C)OC(C=CC=1N=CC=2NC3=CC=CC=C3C2C1)=O | C16H14N2O2
